US05635510
20.7 Synthesis of 1-tert-butoxycarbonyl-4-phenylpiperidine-4-carboxylic acid
4-Phenyl-piperidine-4-carboxylic acid hydrochloride (2.42 g, 10 mmol) was combined with di-tert-butyl dicarbonate (2.4 g, 11 mmol) in DMF (100 mL). N,N-diisopropylethylamine (1.91 mL, 11 mmol) was added to the mixture and the mixture was allowed to stir at ambient temperature for 30 h. The mixture was diluted with ethyl acetate and extracted with 1N HCl. The organic phase was extracted with 1N NaOH (2×200 mL). The aqueous phase was cooled in an ice bath and treated with 1N HCl to pH=2. The aqueous phase was extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered, and concentrated in vacuo to give a residue. The residue was dried under high vacuum to give the title compound:

reactant | 4-Phenyl-piperidine-4-carboxylic acid hydrochloride | 10 mmol, 2.42 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
reactant | di-tert-butyl dicarbonate | 11 mmol, 2.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 11 mmol, 1.91 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-tert-butoxycarbonyl-4-phenylpiperidine-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC=CC=C1 | C17H23NO4
